US06787535B2
A solution of 3-methyl-2-nitrophenol (15.3 g, 100 mmol) in 200 mL of dichloromethane and 42 mL of triethylamine was cooled to −30° C. and trifluoromethanesulfonic anhydride (21 mL, 125 mmol) was slowly added. After 15 min the mixture was washed with saturated aqueous sodium bicarbonate and brine, dried, and evaporated to a dark oil. Silica gel chromatography (10% ethyl acetate-hexane) afforded 26.7 g of trifluoromethanesulfonic acid 3-methyl-2-nitrophenyl ester as a colorless oil.

reactant | 3-methyl-2-nitrophenol | 100 mmol, 15.3 g | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
reactant | trifluoromethanesulfonic anhydride | 125 mmol, 21 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | triethylamine | 42 mL | C(C)N(CC)CC | C6H15N
product | trifluoromethanesulfonic acid 3-methyl-2-nitrophenyl ester | 26.7 g | CC=1C(=C(C=CC1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO5S
